US04080502
21.3 g (0.1 mol) of 2,4-dioxo-hexahydro-1,5-diisopropyl-3-methyl-s-triazine are dissolved in 30 ml of methylene chloride and 24 g (0.15 mol) of bromine are added dropwise. The temperature is kept at 20° C to 30° C by cooling. After one hour, the orange-coloured precipitate which has formed is filtered off and recrystallised from isopropanol. 16 g (55%) of 2,4-dioxo-1,2,3,4-tetrahydro-1,5-diisopropyl-3-methyl-s-triazinium bromide are obtained as white crystals which melt at 210°-212° C.

reactant | 2,4-dioxo-hexahydro-1,5-diisopropyl-3-methyl-s-triazine | 0.1 mol, 21.3 g | O=C1N(CN(C(N1C)=O)C(C)C)C(C)C | C10H19N3O2
reactant | bromine | 0.15 mol, 24 g | BrBr | Br2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dioxo-1,2,3,4-tetrahydro-1,5-diisopropyl-3-methyl-s-triazinium bromide | 16 g, 55% | [Br-].O=C1[NH+](CN(C(N1C)=O)C(C)C)C(C)C | InChI=1S/C10H19N3O2.BrH/c1-7(2)12-6-13(8(3)4)10(15)11(5)9(12)14;/h7-8H,6H2,1-5H3;1H
